US09447090B2
To 200 mg of 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride were added 5 ml of pyridine and 217 mg of sulfamide, followed by heating to reflux for 4 hours. After leaving to be cooled at room temperature, to the reaction mixture were added water and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. The obtained solid was suspended in ethyl acetate, and 120 μl of a 4 M hydrogen chloride/ethyl acetate solution was added thereto. The resulting solid was collected by filtration and dried to obtain 151 mg of N-[(3S)-1-(aminosulfonyl)piperidin-3-yl]-8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride.

reactant | 8-(cyclohexylmethoxy)-2-methyl-N-[(3S)-piperidin-3-yl]imidazo[1,2-a]pyridine-3-carboxamide dihydrochloride | 200 mg | Cl.Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H]2CNCCC2
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | sulfamide | 217 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[(3S)-1-(aminosulfonyl)piperidin-3-yl]-8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride | 151 mg | Cl.NS(=O)(=O)N1C[C@H](CCC1)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | InChI=1S/C21H31N5O4S.ClH/c1-15-19(21(27)24-17-9-5-11-25(13-17)31(22,28)29)26-12-6-10-18(20(26)23-15)30-14-16-7-3-2-4-8-16;/h6,10,12,16-17H,2-5,7-9,11,13-14H2,1H3,(H,24,27)(H2,22,28,29);1H/t17-;/m0./s1
